US05185360
5,10-Dihydro-2-methoxy-1,3,6,8-tetramethylindeno[1,2-b]indole
4,6-Dimethyl-5-methoxy-1-indanone (2.2 g, 11.6 mmol) and 2,4-dimethylphenylhydrazine hydrochloride (2.00 g, 1 eq) were heated to reflux in ethanol (15 cm3) containing conc. HCl (1 cm3). After 2 hours, the precipitate was filtered and washed with ammonium hydroxide solution. All the collected material was extracted with ethyl acetate with the aid of salting out. The solvent was dried, and evaporated in vacuo and the product purified by column chromatography, eluting with 5% EtOAc/60°-80° petrol. The indole was recrystallised from dichloromethane/60°-80° petrol as pale beige needles. M.p. 210° C. 1H NMR (CDCl3)δ: 8.03 (1H, br), 7.25 (1H, s), 7.15 (1H, s), 6.81 (1H, s), 3.76 (3H, s), 3.53 (2H, s), 2.49 (3H, s), 2.43 (3H, s), 2.37 (6H, s).

reactant | 4,6-Dimethyl-5-methoxy-1-indanone | 11.6 mmol, 2.2 g | CC1=C2CCC(C2=CC(=C1OC)C)=O | C12H14O2
reactant | 2,4-dimethylphenylhydrazine hydrochloride | 2.00 g, 1 eq | Cl.CC1=C(C=CC(=C1)C)NN
reactant | HCl | 1 cm3 | Cl | ClH
solvent | ethanol | 15 cm3 | C(C)O | C2H6O
product | 5,10-Dihydro-2-methoxy-1,3,6,8-tetramethylindeno[1,2-b]indole | COC=1C(=C2CC3=C(NC=4C(=CC(=CC34)C)C)C2=CC1C)C | C20H21NO
